US07282501B2
Step C: 3-[4-Hydroxy-2-(4-trifluoromethylphenoxymethyl)phenyl]propionic acid tert-butyl ester
A 100 mL round bottomed flask was charged with 3-[4-(tert-butyldiphenylsilanyloxy)-2-(4-trifluoromethylphenoxymethyl)phenyl]propionic acid tert-butyl ester (0.65 g, 1.02 mmol), anhydrous THF (40 mL), and then tetrabutylammonium fluoride (3.1 mL, 3.1 mmol, 1.0 M in THF). The reaction was stirred under a nitrogen atmosphere for 1.5 h and was concentrated. The residue was diluted with EtOAc (100 mL). The organic layer was washed with brine (2×), dried (Na2SO4), and concentrated to an orange oil. The crude oil was purified using radial chromatography (EtOAc:hexanes 15:85) to give a white solid (0.31 g, 77%). MS (ES) m/e 395 (M−1).

reactant | 3-[4-(tert-butyldiphenylsilanyloxy)-2-(4-trifluoromethylphenoxymethyl)phenyl]propionic acid tert-butyl ester | 1.02 mmol, 0.65 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)COC1=CC=C(C=C1)C(F)(F)F)=O | C37H41F3O4Si
reactant | tetrabutylammonium fluoride | 3.1 mmol, 1.0 M, 3.1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-[4-Hydroxy-2-(4-trifluoromethylphenoxymethyl)phenyl]propionic acid tert-butyl ester | 0.31 g, 77% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)COC1=CC=C(C=C1)C(F)(F)F)=O | C21H23F3O4
